US04409214
Trifluoroacetic acid (13.6 ml) was added to a solution of benzhydryl 7-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-tert-butoxycarbonylmethoxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylate (syn isomer) (3.4 g) in methylene chloride (7.0 ml) and anisole (3.4 ml) under ice-cooling, followed by stirring at ambient temperature for 1.5 hours. The reaction mixture was added dropwise to diisopropyl ether (150 ml), and the precipitates were collected by filtration and then added to a mixture of water and ethyl acetate. After adjusting to pH 7.5 with a saturated aqueous sodium bicarbonate, the aqueous layer was separated and then adjusted to pH 2.0 with 10% hydrochloric acid. The precipitates were collected by filtration, washed with cold water and then dried to obtain 7-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-carboxymethoxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylic acid (syn isomer) (1.39 g).

reactant | Trifluoroacetic acid | 13.6 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | benzhydryl 7-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-tert-butoxycarbonylmethoxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylate | 3.4 g | NC1=NC(=NS1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOCC(=O)OC(C)(C)C | C32H32N6O7S2
reactant | diisopropyl ether | 150 ml | C(C)(C)OC(C)C | C6H14O
solvent | methylene chloride | 7.0 ml | C(Cl)Cl | CH2Cl2
solvent | anisole | 3.4 ml | C1(=CC=CC=C1)OC | C7H8O
product | 7-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-carboxymethoxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylic acid | 1.39 g | NC1=NC(=NS1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)O)C1=O)=NOCC(=O)O | C15H14N6O7S2
